US04820834
7-Chloro-1,3-dihydro-3(R)-benzyl-5-phenyl-2H-1,4-benzodiazepin-2-one
The procedure of Example 1 was carried out using 2-amino-5-chlorobenzophenone (2.32 gm, 0.01 mol), Boc-D-Phenylalanine (2.65 gm, 0.01 mol), and DCC (10 ml of 1.0 M solution in CH2Cl2) in CH2Cl2 (10 ml). After filtration and evaporation, the crude solid was deprotected and cyclized by the procedure of Example 2. After stirring 5 days, the mixture was evaporated in vacuo, treated with H2O (50 ml), and extracted with EtoAc (2×100 ml). The combined organic extracts were washed with brine (50 ml), dried over MgSO4, filtered and evaporated to dryness in vacuo. Chromatogaphy on silica gel eluted with 7.5% (v/v) Et2O in CH2Cl2 gave a white foam which was crystallized from Et2O. The solid was dried in vacuo at 65° C.: (m.p. 154°-7° C.).

reactant | 2-amino-5-chlorobenzophenone | 0.01 mol, 2.32 gm | NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl | C13H10ClNO
reactant | Boc-D-Phenylalanine | 0.01 mol, 2.65 gm | C(=O)(OC(C)(C)C)N[C@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | DCC | 1.0 M, 10 ml | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 7-Chloro-1,3-dihydro-3(R)-benzyl-5-phenyl-2H-1,4-benzodiazepin-2-one | ClC=1C=CC2=C(C(=N[C@@H](C(N2)=O)CC2=CC=CC=C2)C2=CC=CC=C2)C1 | C22H17ClN2O
